US05338828
A. Synthesis of 2-(4-Hydroxyphenyl)oxazoline
Phenyl ester of 4-hydroxybenzoic acid (19.28 grams, 0.09 mole) and monoethanolamine (5.55 grams, 0.0909 mole) are added to a reactor and stirred as a powder under a nitrogen atmosphere. Heating commences and fourteen minutes later, a temperature of 150° C. is achieved. After 108 minutes at 150° C., the reactor is cooled to 60° C., then chloroform (100 milliliters) is added. After boiling for 5 minutes, the chloroform is decanted off, and a second portion (100 milliliters) of chloroform is added. After boiling for 5 minutes, the chloroform is again removed by decantation. A third portion (100 milliliters) of chloroform is added followed by boiling for 5 minutes and decantation. Ethyl acetate (100 grams) is added to the powder product remaining in the reactor and stirring under a nitrogen atmosphere commences to provide a fine slurry. Thionyl chloride (21.41 grams, 0.18 mole) dissolved in ethyl acetate (50 grams) is added to the reactor inducing an exotherm to 29° C. three minutes later. The reactor is allowed to cool to 25° C and maintained therein for 237 minutes. The product is filtered off and the product recovered on the filter is washed with two portions (50 milliliters) of ethyl acetate. The filter cake of N-(2-chloroethyl)-4-hydroxybenzamide slightly damp with ethyl acetate is added to a beaker containing deionized water (300 milliliters) and stirred to a solution. Five percent aqueous sodium hydroxide solution is added dropwise to the solution until the pH reached 7. At this time, a white slurry of crystalline product is formed and is stirred for an additional ten minutes before filtration. The product is washed on the filter with two portions (50 milliliters) of deionized water, removed, added to a porcelain dish and then dried in a vacuum oven at 50° C. and 1 mm Hg for two hours. After this time, the product is removed and boiled in acetone (300 milliliters) After cooling to 25° C. 200 milliliters of the acetone is removed by rotary evaporation. The resulting product is recovered by filtration, washed on the filter with cold acetone (25 milliliters), removed, added to a porcelain dish and then dried in a vacuum oven at 50° C. and 1 mm Hg to a constant weight of 9.02 grams of crystalline white powder. Fourier transform infrared spectrophotometric analysis of a potassium bromide pellet of the product reveals the presence of the expected oxazoline >C=N--absorbance at 1636 cm-1, the hydroxyl group O--H stretching at 3442 cm-1 and the out-of-plane C--H bending vibration at 839 cm-1 indicative of para-disubstitution. An absorption characteristic of the oxazoline ring is observed at 945 cm-1. Proton magnetic resonance spectroscopy (250 MHz) further confirms the product structure as the 2-(4-hydroxyphenyl)oxazoline.

reactant | 4-hydroxybenzoic acid | 0.09 mole, 19.28 grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | monoethanolamine | 0.0909 mole, 5.55 grams | C(O)CN | C2H7NO
reactant | chloroform | 100 milliliters | C(Cl)(Cl)Cl | CHCl3
reactant | Thionyl chloride | 0.18 mole, 21.41 grams | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 50 grams | C(C)(=O)OCC | C4H8O2
product | 2-(4-Hydroxyphenyl)oxazoline | OC1=CC=C(C=C1)C=1OCCN1 | C9H9NO2
